US04459403
A solution of 1.16 g (0.010 mole) of 6H-1,2,4-oxadiazin-3,5(2H,4H)-dione, 5 mg of ammonium sulfate, 1.55 g (0.012 mole) of n-octylamine and 20 ml hexamethyldisilazane in 40 ml freshly distilled dry dioxane is refluxed for 17 hours. After cooling to room temperature, the dioxane and hexamethyldisilazane are removed in vacuo and the syrupy residue is dried on a vacuum pump for 2 hours. The resulting semi-solid residue is triturated with 100 ml of petroleum ether and filtered to yield 0.85 g (37 percent) of 5-octylamino-6H-1,2,4-oxadiazin-3(2H)-one.

reactant | 6H-1,2,4-oxadiazin-3,5(2H,4H)-dione | 0.010 mole, 1.16 g | O1NC(NC(C1)=O)=O | C3H4N2O3
reactant | n-octylamine | 0.012 mole, 1.55 g | C(CCCCCCC)N | C8H19N
reactant | hexamethyldisilazane | 20 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
catalyst | ammonium sulfate | 5 mg | S(=O)(=O)([O-])[O-].[NH4+].[NH4+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-octylamino-6H-1,2,4-oxadiazin-3(2H)-one | 0.85 g, 37 percent | C(CCCCCCC)NC1=NC(NOC1)=O | C11H21N3O2
